US05330990
N-(2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-phenyl)-N1 -(3-quinuclidinyl)urea
To a solution of phosgene in toluene (1.5 ml, 1.9M) stirred under N2 at 0° C. was added dropwise 5-(2-aminophenyl)-3-cyclopropyl-1,2,4-oxadiazol (0.5 g, 2.5 mmol) in 30 mldry methylene chloride and then 0.8 ml of dry triethylamine. Upon addition the mixture was stirred at 0° C. for 15 min. whereupon a solution of 3-aminoquinuclidine (0.18 g, 1.4 mmol) in 10 ml CH2Cl2 was added. This mixture was stirred at room temperature for 4 h and washed with 25 ml saturated sodium bicarbonate. The organic phase was dried with magnesium sulphate and concentrated in vacuo. The resulting oil dissolved in methanol. Addition of ether precipitated 0.38 g of the desired product as white crystals. This product was dissolved in ethanol and precipitated as the hydrochloride by addition of dry hydrochloric acid in ether, giving0.3 g. M.p. 229°-233° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2-aminophenyl)-3-cyclopropyl-1,2,4-oxadiazol | 2.5 mmol, 0.5 g | NC1=C(C=CC=C1)C1=NC(=NO1)C1CC1 | C11H11N3O
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-aminoquinuclidine | 1.4 mmol, 0.18 g | NC1CN2CCC1CC2 | C7H14N2
solvent | toluene | 1.9M, 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-phenyl)-N1 -(3-quinuclidinyl)urea | C1(CC1)C1=NOC(=N1)C1=C(C=CC=C1)N(C(=O)N)C1CN2CCC1CC2 | C19H23N5O2
